US07749992B2
Add di-tert-butyl-dicarbonate (0.189 g, 0.866 mmol) to a solution of 8-bromo-1,2,3,4-tetrahydrobenzo[b]azepin-5-one (0.104 g, 0.433 mmol), N,N-diisopropylethylamine (0.15 mL, 0.866 mmol) and 4-(dimethylamino)pyridine (0.010 g, 0.087 mmol) in dichloromethane (1 mL) at 0° C. and slowly warm to room temperature. After 6 h add more di-tert-butyl-dicarbonate (0.189 g, 0.866 mmol) and N,N-diisopropylethylamine (0.15 mL, 0.866 mmol) and stir at room temperature for 15 h. Remove the solvent under reduced pressure and purify the crude material using chromatography on silica gel, eluting with hexanes/ethyl acetate (60:40), to afford tert-butyl 8-bromo-5-oxo-2,3,4,5-tetrahydrobenzo[b]azepine-1-carboxylate as an off-white solid (0.097 g, 66%).

reactant | di-tert-butyl-dicarbonate | 0.866 mmol, 0.189 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | 8-bromo-1,2,3,4-tetrahydrobenzo[b]azepin-5-one | 0.433 mmol, 0.104 g | BrC=1C=CC2=C(NCCCC2=O)C1 | C10H10BrNO
reactant | N,N-diisopropylethylamine | 0.866 mmol, 0.15 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | di-tert-butyl-dicarbonate | 0.866 mmol, 0.189 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | N,N-diisopropylethylamine | 0.866 mmol, 0.15 mL | C(C)(C)N(C(C)C)CC | C8H19N
catalyst | 4-(dimethylamino)pyridine | 0.087 mmol, 0.010 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
product | tert-butyl 8-bromo-5-oxo-2,3,4,5-tetrahydrobenzo[b]azepine-1-carboxylate | 0.097 g, 66% | BrC=1C=CC2=C(N(CCCC2=O)C(=O)OC(C)(C)C)C1 | C15H18BrNO3
